US08871782B2
The synthesis of 2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol is described in Parts A-I of Example 2. A mixture of 2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol (4.5 g, 15.8 mmol), tert-butyl 4-(2-bromoacetyl)piperazine-1-carbamate (4.57 g, 14.9 mmol), and potassium carbonate (3.27 g, 23.7 mmol) in DMF (158 mL) was heated to 55° C. for 2.5 hours, then was allowed to cool to room temperature and was stirred for 16 hours. The solution was poured into water (500 mL), which was extracted with diethyl ether (300 mL), ethyl acetate (300 mL) and dichloromethane (300 mL). The combined organic layers were concentrated under reduced pressure. The crude product was purified by flash chromatography (silica gel, gradient elution with 0-5% methanol in dichloromethane to provide 7.9 g of tert-butyl 4-({[2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}acetyl)piperazine-1-carboxylate as a tan waxy solid that contained 15% of DMF by weight.

reactant | 2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol | C(C)OCC=1N(C2=C(C=NC=3C=CC(=CC23)O)N1)CCC | C16H19N3O2
reactant | 2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol | 15.8 mmol, 4.5 g | C(C)OCC=1N(C2=C(C=NC=3C=CC(=CC23)O)N1)CCC | C16H19N3O2
reactant | tert-butyl 4-(2-bromoacetyl)piperazine-1-carbamate | 14.9 mmol, 4.57 g | BrCC(=O)N1CCN(CC1)NC(=O)OC(C)(C)C | C11H20BrN3O3
reactant | potassium carbonate | 23.7 mmol, 3.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 mL | O | H2O
solvent | DMF | 158 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-({[2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-8-yl]oxy}acetyl)piperazine-1-carboxylate | 7.9 g | C(C)OCC=1N(C2=C(C=NC=3C=CC(=CC23)OCC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)N1)CCC | C27H37N5O5
